US04415572
6-(1-Piperazinyl)-3,4-dihydrocarbostyril monohydrobromide (1 g) was suspended in 15 ml of DMF. After adding 296 mg of sodium hydrogencarbonate, the suspension was stirred at room temperature for 30 minutes to convert the starting compound to 6-(1-piperazinyl)-3,4-dihydrocarbostyril. Then, to the mixture was added 0.62 ml of triethylamine and the mixture was stirred at room temperature while slowly adding dropwise 5 ml of DMF solution containing 532 mg of m-chlorobenzoyl chloride. After completion of addition the reaction mixture was stirred for at room temperature 1 hour. The reaction mixture was poured into a large amount of water and extracted with chloroform. The extract was washed with saturated sodium hydrogencarbonate solution and subsequently with water and dried over anhydrous sodium sulfate. Chloroform was distilled off and residual crystals were recrystallized from methanol to give 0.4 g of 6-[4-(3-chlorobenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril, m.p. 197°-197.5° C., colorless scales.

reactant | 6-(1-Piperazinyl)-3,4-dihydrocarbostyril monohydrobromide | 1 g | Br.N1(CCNCC1)C=1C=C2CCC(NC2=CC1)=O
reactant | sodium hydrogencarbonate | 296 mg | C(O)([O-])=O.[Na+]
reactant | 6-(1-piperazinyl)-3,4-dihydrocarbostyril | N1(CCNCC1)C=1C=C2CCC(NC2=CC1)=O | C13H17N3O
reactant | m-chlorobenzoyl chloride | 532 mg | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | triethylamine | 0.62 ml | C(C)N(CC)CC | C6H15N
product | 6-[4-(3-chlorobenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril | 0.4 g | ClC=1C=C(C(=O)N2CCN(CC2)C=2C=C3CCC(NC3=CC2)=O)C=CC1 | C20H20ClN3O2
